US07829560B2
N-[4-(2-Morpholin-4-yl-ethoxy)-naphthalen-1-yl]-3-pyridin-3-yl-benzamide (Compound B58).
Compound is prepared from 3-pyridin-3-yl-benzoic acid and 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine according to conditions described in general procedure G. (0.218 g) (63%). Mp: 77-78° C. 1H NMR (300 MHz, DMSO-d6) 10.42 (s, 1H), 9.06 (s, 1H), 8.63 (d, J=3.9 Hz, 1H), 8.48 (s, 1H), 8.22 (d, J=8.1Hz, 2H), 8.10 (d, J=7.5 Hz, 1H), 7.98 (m, 2H), 7.69 (t, J=7.5 Hz, 1H), 7.56-7.47 (m, 4H), 7.04 (d, J=8.4 Hz, 1H), 4.33 (brt, 2H), 3.60 (brs, 4H), 2.88 (brs, 2H), 2.57 (brs, 4H). MS: 454 (M+1).

reactant | 3-pyridin-3-yl-benzoic acid | N1=CC(=CC=C1)C=1C=C(C(=O)O)C=CC1 | C12H9NO2
reactant | 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
product | N-[4-(2-Morpholin-4-yl-ethoxy)-naphthalen-1-yl]-3-pyridin-3-yl-benzamide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC=C1)C=1C=NC=CC1)=O | C28H27N3O3
